US08703805B2
To a suspension of 4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenol (ref hydrogenation below) (60 mg, 180 μmol) and Cs2CO3 (140 mg, 400 μmol) in acetonitrile (2 mL) was added 2-chloropyrimidine (66 mg, 580 μmol). The suspension was then heated to 80° C. in an oil bath. After stirring for 16 hours at 80° C. the suspension was filtered through a plug of silica gel (1 g), which was eluted with EtOAc. The filtrate was concentrated under reduced pressure and purified by flash column chromatography eluting with a gradient from 10% to 30% EtOAc/hexane to afford 2-(4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenoxy)pyrimidine (55 mg, 75% yield) as a white powder. MS(ES): 417 [M+H]+.

reactant | 4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenol | 180 μmol, 60 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC=C(C=C1)O)C(F)(F)F | C16H10ClF3N2O
reactant | Cs2CO3 | 400 μmol, 140 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-chloropyrimidine | 580 μmol, 66 mg | ClC1=NC=CC=N1 | C4H3ClN2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 2-(4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenoxy)pyrimidine | 55 mg, 75% yield | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC=C(OC2=NC=CC=N2)C=C1)C(F)(F)F | C20H12ClF3N4O
